US07960561B2
N-(Benzimidazol-2-yl)-4-bromo-3-(trifluoromethyl)aniline
The title compound was prepared from 2-chlorobenzimidazole and 4-bromo-3-(trifluoromethyl)aniline by Procedure A. The product was isolated by filtration to give the title compound as a hydrochloride salt (white solid, mp 262-264° C.). MS(ES+) m/z 356 (M+, 100).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-bromo-3-(trifluoromethyl)aniline | BrC1=C(C=C(N)C=C1)C(F)(F)F | C7H5BrF3N
product | N-(Benzimidazol-2-yl)-4-bromo-3-(trifluoromethyl)aniline | N1=C(NC2=C1C=CC=C2)NC2=CC(=C(C=C2)Br)C(F)(F)F | C14H9BrF3N3
